US09428502B2
Compound 261.1. (E)-4-Ethoxy-1,1,1-trifluoro-3-methylbut-3-en-2-one
Into a 50-mL 3-neck round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a solution trifluoroacetic anhydride (3.31 mL, 23.8 mmol) and diethyl ether (20 mL). The solution was cooled to −10° C., then a solution mix of (E)-1-ethoxyprop-1-ene (2.82 mL, 25.5 mmol) and pyridine (1.94 mL, 24.0 mmol) was added drop-wise at −10° C. The resulting solution was stirred overnight at room temperature, then diluted with diethyl ether (50 mL). The solids were removed by filtration and the filtrate was concentrated under reduced pressure. The residue was diluted with water (100 mL) and extracted with DCM (3×50 mL). The combined organic extracts were washed with aq HCl (0.1 M, 3×100 mL) and water (100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to obtain the title compound as a colorless oil (2.6 g, 60%).

reactant | trifluoroacetic anhydride | 23.8 mmol, 3.31 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (E)-1-ethoxyprop-1-ene | 25.5 mmol, 2.82 mL | C(C)O\C=C\C | C5H10O
reactant | pyridine | 24.0 mmol, 1.94 mL | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (E)-4-Ethoxy-1,1,1-trifluoro-3-methylbut-3-en-2-one | 2.6 g, 60% | C(C)O/C=C(/C(C(F)(F)F)=O)\C | C7H9F3O2
